* Cleaned remote-only library for 3d_tft_macros.spice 4-pin placeholder family.
* Parameterized native-ngspice TFT model generated remotely.
* Based on tft_n1.va: I(d,s)=V(d,s)*gch(Vgs_eff).
* gch table is scaled by (W/L)/(8u/3u) and M.
.subckt tft3d_nfet d g s params: w=8u l=3u m=1
Bch d s I={V(d,s)*pwl(((V(s)<V(d)) ? V(g,s) : V(g,d)),
+ -3, 1.84e-13,
+ -2.95, 2.69e-12,
+ -2.9, 6.9e-13,
+ -2.85, 3.48e-12,
+ -2.8, 2.73e-12,
+ -2.75, 2.82e-12,
+ -2.7, 1.69e-12,
+ -2.65, 4.23e-12,
+ -2.6, 1.8e-12,
+ -2.55, 3.01e-12,
+ -2.5, 2.02e-12,
+ -2.45, 2.2e-12,
+ -2.4, 3.82e-12,
+ -2.35, 5.98e-12,
+ -2.3, 3.38e-12,
+ -2.25, 4.28e-12,
+ -2.2, 5.29e-12,
+ -2.15, 6.23e-12,
+ -2.1, 5.21e-12,
+ -2.05, 4.19e-12,
+ -2, 4.52e-12,
+ -1.95, 5.62e-12,
+ -1.9, 5.73e-12,
+ -1.85, 4.21e-12,
+ -1.8, 4.85e-12,
+ -1.75, 5.47e-12,
+ -1.7, 4.55e-12,
+ -1.65, 4.68e-12,
+ -1.6, 6.33e-12,
+ -1.55, 5.23e-12,
+ -1.5, 7.2e-12,
+ -1.45, 8.31e-12,
+ -1.4, 6.14e-12,
+ -1.35, 7.9e-12,
+ -1.3, 6.65e-12,
+ -1.25, 6.03e-12,
+ -1.2, 3.81e-12,
+ -1.15, 2.77e-12,
+ -1.1, 9.44e-12,
+ -1.05, 2.36e-11,
+ -1, 4.84e-11,
+ -0.95, 8.89e-11,
+ -0.9, 1.72e-10,
+ -0.85, 3.13e-10,
+ -0.8, 5.71e-10,
+ -0.75, 1.03e-09,
+ -0.7, 1.85e-09,
+ -0.65, 3.27e-09,
+ -0.6, 5.72e-09,
+ -0.55, 1.05e-08,
+ -0.5, 1.75e-08,
+ -0.45, 2.82e-08,
+ -0.4, 4.44e-08,
+ -0.35, 5.76e-08,
+ -0.3, 9.44e-08,
+ -0.25, 1.44e-07,
+ -0.2, 2.1e-07,
+ -0.15, 2.98e-07,
+ -0.1, 4.12e-07,
+ -0.05, 5.12e-07,
+ 0, 7.01e-07,
+ 0.05, 9.27e-07,
+ 0.1, 1.2e-06,
+ 0.15, 1.52e-06,
+ 0.2, 1.9e-06,
+ 0.25, 2.33e-06,
+ 0.3, 2.83e-06,
+ 0.35, 3.39e-06,
+ 0.4, 4.02e-06,
+ 0.45, 4.72e-06,
+ 0.5, 5.32e-06,
+ 0.55, 6.2e-06,
+ 0.6, 7.14e-06,
+ 0.65, 8.15e-06,
+ 0.7, 9.23e-06,
+ 0.75, 1.04e-05,
+ 0.8, 1.16e-05,
+ 0.85, 1.29e-05,
+ 0.9, 1.43e-05,
+ 0.95, 1.57e-05,
+ 1, 1.72e-05,
+ 1.05, 1.87e-05,
+ 1.1, 2.03e-05,
+ 1.15, 2.2e-05,
+ 1.2, 2.37e-05,
+ 1.25, 2.54e-05,
+ 1.3, 2.72e-05,
+ 1.35, 2.9e-05,
+ 1.4, 3.09e-05,
+ 1.45, 3.28e-05,
+ 1.5, 3.47e-05,
+ 1.55, 3.66e-05,
+ 1.6, 3.86e-05,
+ 1.65, 4.06e-05,
+ 1.7, 4.26e-05,
+ 1.75, 4.46e-05,
+ 1.8, 4.66e-05,
+ 1.85, 4.86e-05,
+ 1.9, 4.99e-05,
+ 1.95, 5.21e-05,
+ 2, 5.42e-05,
+ 2.05, 5.62e-05,
+ 2.1, 5.83e-05,
+ 2.15, 6.03e-05,
+ 2.2, 6.23e-05,
+ 2.25, 6.43e-05,
+ 2.3, 6.63e-05,
+ 2.35, 6.83e-05,
+ 2.4, 7.02e-05,
+ 2.45, 7.21e-05,
+ 2.5, 7.39e-05,
+ 2.55, 7.58e-05,
+ 2.6, 7.76e-05,
+ 2.65, 7.94e-05,
+ 2.7, 8.11e-05,
+ 2.75, 8.29e-05,
+ 2.8, 8.45e-05,
+ 2.85, 8.62e-05,
+ 2.9, 8.78e-05,
+ 2.95, 8.93e-05,
+ 3, 9.08e-05)*((w/l)/(8u/3u))*m}
.ends tft3d_nfet

.subckt nfet_W6u_L5 D G S VSS params: L=5u W=6u M=1
Xcore D G S tft3d_nfet w={W} l={L} m={M}
.ends nfet_W6u_L5

.subckt nfet_W20p825_L5 D G S VSS params: L=5u W=20.825u M=1
Xcore D G S tft3d_nfet w={W} l={L} m={M}
.ends nfet_W20p825_L5

.subckt nfet_W24u_L5 D G S VSS params: L=5u W=24u M=1
Xcore D G S tft3d_nfet w={W} l={L} m={M}
.ends nfet_W24u_L5

* From 3d_tft_macros.spice
.subckt NAND3_X4RL_T5 A1 A2 A3 VDD VSS Y
XN0 net011 A3 VSS VSS nfet_W24u_L5
XN1 net016 A2 net011 net011 nfet_W24u_L5
XN2 Y A1 net016 net016 nfet_W24u_L5
XPU VDD VDD Y Y nfet_W6u_L5
.ends NAND3_X4RL_T5

* From 3d_tft_macros.spice
.subckt INV_X4PC_T5_nmos A Y VDD VSS
RPU VDD Y 24k
    X0 Y A VSS tft3d_nfet W=24u L=5u M=4
COUT Y VSS 10f
.ends INV_X4PC_T5_nmos

* From 3d_tft_macros.spice
.subckt wl_inv A Y VDD VSS
XINV A Y VDD VSS INV_X4PC_T5_nmos
.ends wl_inv

* From 3d_tft_macros.spice
.subckt wl_prebuffer A Y VDD VSS
XINV0 A mid VDD VSS INV_X4PC_T5_nmos
XINV1 mid Y VDD VSS INV_X4PC_T5_nmos
.ends wl_prebuffer

* From 3d_tft_macros.spice
.subckt wl_sel A SEL Y VDD VSS
RPU VDD Y 24k
    XSEL Y SEL mid tft3d_nfet W=6u L=5u M=1
    XDAT mid A VSS tft3d_nfet W=6u L=5u M=1
COUT Y VSS 10f
.ends wl_sel

* From 3d_tft_macros.spice
.subckt stack_sram_array_f0
.ends stack_sram_array_f0

* From 3d_tft_macros.spice
.subckt stack_sram_array_f1
.ends stack_sram_array_f1

* From 3d_tft_macros.spice
.subckt stack_sram_array_f2
.ends stack_sram_array_f2

* From 3d_tft_macros.spice
.subckt stack_sram_array_f3
.ends stack_sram_array_f3

* From 3d_tft_macros.spice
.subckt stack_sram_array_f4
.ends stack_sram_array_f4

* From 3d_tft_macros.spice
.subckt stack_sram_array_f5
.ends stack_sram_array_f5

